US07553833B2
In a manner similar to the method described in example 2 (method A), rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-iso-propenylspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione (120 mg, 0.3 mmol) was reacted with NaN3 (39 mg, 0.6 mmole) in the presence of TiCl4 (1.0 M in CH2Cl2, 0.3 mL) (Aldrich) in acetonitrile (10 mL) followed by chiral chromatography separation to give (3S,4R,5R)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-(1-methylethenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (25.9 mg): HRMS (ES+) m/z Calcd for C22H20Cl2N2O2+H [(M+H)+]: 415.0975, Found: 415.0974; (3R,4S,5S)-6′-chloro-5-(3-chlorophenyl))-1,1′,2,2′,3,5,6,7-octahydro-3-(1-methylethenylspiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (28.8 mg): HRMS (ES+) m/z Calcd for C22H20Cl2N2O2+H [(M+H)+]: 415.0975, found: 415.0975; (3S,4R,5R)-4′-chloro-3-(3-chlorophenyl))-1,1′,2,2′,3,5,6,7-octahydro-5-(1-methylethenylspiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (20.7 mg): HRMS (ES+) m/z Calcd for C22H20Cl2N2O2+H [(M+H)+]: 415.0975, found: 415.0974; and (3R,4S,5S)-6′-chloro-3-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-5-(1-methylethenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione (21.6 mg): HRMS (ES+) m/z Calcd for C22H20Cl2N2O2+H [(M+H)+]: 415.0975, found: 415.0974.

reactant | rac-(1R,2S,6R)-6′-chloro-2-(3-chlorophenyl)-6-iso-propenylspiro[cyclohexane-1,3′-[3H]indole]-2′,4(1′H)-dione | 0.3 mmol, 120 mg | ClC1=CC=C2C3(C(NC2=C1)=O)C(CC(CC3C(=C)C)=O)C3=CC(=CC=C3)Cl | C22H19Cl2NO2
reactant | NaN3 | 0.6 mmole, 39 mg | [N-]=[N+]=[N-].[Na+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | TiCl4 | 1.0 M, 0.3 mL | Cl[Ti](Cl)(Cl)Cl
product | (3S,4R,5R)-6′-chloro-5-(3-chlorophenyl)-1,1′,2,2′,3,5,6,7-octahydro-3-(1-methylethenyl)-spiro[4H-azepine-4,3′-[3H]-indole]-2′,7-dione | 25.9 mg | ClC1=CC=C2[C@]3(C(NC2=C1)=O)[C@@H](CNC(C[C@@H]3C3=CC(=CC=C3)Cl)=O)C(=C)C | C22H20Cl2N2O2
